US06635657B1
B. N-(5-Chloropyridin-2-yl)-4-hydroxymethyl-2-[(4-piperidinylmethyl)amino]benzamide
Using a similar procedure to that described in Example 47-D, N-(5-chloropyridin-2-yl)-4-hydroxymethyl-2-[(1-Boc-piperidin-4-ylmethyl)amino]benzamide (1.45 g, 3.07 mmol) and borane trimethylamine complex (672 mg, 9.22mmol) afforded 900 mg (79%) of the title compound, which was used without further purification.

reactant | N-(5-chloropyridin-2-yl)-4-hydroxymethyl-2-[(1-Boc-piperidin-4-ylmethyl)amino]benzamide | 3.07 mmol, 1.45 g | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)CO)NCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C24H31ClN4O4
reactant | borane trimethylamine complex | 9.22mmol, 672 mg | [B-][N+](C)(C)C | C3H9BN
product | N-(5-Chloropyridin-2-yl)-4-hydroxymethyl-2-[(4-piperidinylmethyl)amino]benzamide | 900 mg, 79% | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)CO)NCC1CCNCC1)=O | C19H23ClN4O2
